US08217027B2
9-BBN (25 ml, 12.50 mmol) was added dropwise to a stirred and cooled solution of (1R,3R)-methyl 1-(benzyloxycarbonylamino)-3-(4-vinylphenyl)cyclopentanecarboxylate (0.682 g, 1.797 mmol) in THF (15 mL). The reaction mixture was checked by TLC to ensure complete conversion to boronate. Once complete the ice bath was removed and stirring was continued overnight. The reaction mixture was cooled to 0° C. and methanol (20 ml) was added. Aqueous NaOH (7.30 ml, 14.59 mmol) and H2O2 (1.522 ml, 14.90 mmol) were poured into the reaction mixture. Stirring was continued for 2 hours. The solvent was removed under reduced pressure and the product purified by FCC to afford (1R,3R)-methyl 1-(benzyloxycarbonylamino)-3-(4-(2-hydroxyethyl)phenyl)cyclopentanecarboxylate (0.507 g, 1.276 mmol, 71.0% yield) as colorless oil.

reactant | 9-BBN | 12.50 mmol, 25 ml | B1C2CCCC1CCC2 | C8H15B
reactant | (1R,3R)-methyl 1-(benzyloxycarbonylamino)-3-(4-vinylphenyl)cyclopentanecarboxylate | 1.797 mmol, 0.682 g | C(C1=CC=CC=C1)OC(=O)N[C@]1(C[C@@H](CC1)C1=CC=C(C=C1)C=C)C(=O)OC | C23H25NO4
reactant | boronate | B([O-])[O-]
reactant | NaOH | 14.59 mmol, 7.30 ml | [OH-].[Na+]
reactant | H2O2 | 14.90 mmol, 1.522 ml | OO | H2O2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | (1R,3R)-methyl 1-(benzyloxycarbonylamino)-3-(4-(2-hydroxyethyl)phenyl)cyclopentanecarboxylate | 1.276 mmol, 0.507 g, 71.0% yield | C(C1=CC=CC=C1)OC(=O)N[C@]1(C[C@@H](CC1)C1=CC=C(C=C1)CCO)C(=O)OC | C23H27NO5
